US06716935B1
An initiator slurry was prepared by mixing 775.9 ml of 1.3 M sec-butyl lithium in cyclohexane with 4133 g of oxygen-free cyclohexane and stirred at room temperature for about 30 minutes. To this solution was added 196 g of 1,1-diphenylethylene, which resulted in the formation of a red colored solution of 1,1-diphenylhexyl lithium. Purified 2-ethylhexyl methacrylate monomer (pumped via a reciprocating piston pump at a rate of 89.3 g/min) was fed into zone 1 of the 3.3 Liter STR.

reactant | sec-butyl lithium | 1.3 M, 775.9 ml | C(C)(CC)[Li]
reactant | oxygen | 4133 g | O=O | O2
reactant | 1,1-diphenylethylene | 196 g | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | cyclohexane | C1CCCCC1 | C6H12
product | 1,1-diphenylhexyl lithium | C1(=CC=CC=C1)C(CCCCC)(C1=CC=CC=C1)[Li] | InChI=1S/C18H21.Li/c1-2-3-6-15-18(16-11-7-4-8-12-16)17-13-9-5-10-14-17;/h4-5,7-14H,2-3,6,15H2,1H3;
